US07262188B2
3-Bromophenylsulfonyl fluoride (D1)
To a stirred solution of 3-bromophenylsulfonyl chloride (5 g, 0.0196 mol) in acetonitrile (20 ml) was added potassium fluoride (2.27 g, 0.0391 mol) followed by 18-crown-6 ether (0.08 g) and the reaction stirred at room temperature for 18 h. The reaction mixture was then washed with water (60 ml), extracted with ethyl acetate (3×80 ml) and the combined organic extracts dried (Na2SO4). Solvents were evaporated in vacuo to give a yellow oil (3.79 g, 81%).

reactant | 3-bromophenylsulfonyl chloride | 0.0196 mol, 5 g | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | potassium fluoride | 0.0391 mol, 2.27 g | [F-].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | 18-crown-6 ether | 0.08 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 3-Bromophenylsulfonyl fluoride | 3.79 g, 81% | BrC=1C=C(C=CC1)S(=O)(=O)F | C6H4BrFO2S
